US06020371
To a solution of BOC-Leu-OH (15.09 g, 65 mmol, 1 equiv) in THF (150 mL) at 0° C. was added BH3 ·THF (163 mL of a 1.0M solution in THF, 163 mmol, 2.51 equiv). The reaction mixture was stirred at 23° C. for 3 h and then cooled to 0° C. Brine (100 mL) was added carefully, and the aqueous layer was extracted with EtOAc (2×100 mL). The combined organic layers were dried over Na2SO4 and concentrated. The residue was purified by flash column chromatography (gradient elution, 25→35% EtOac in hexanes) to afford BOC-L-Leucinol as a colorless oil (12.59 g, 89%): IR (cm-1): 3434, 1699, 1256, 739; 1H NMR (CDCl3) δ 0.93 (dd, 6H, J=6.6, 1.5), 1.29-1.31 (m, 2H), 1.45 (s, 9H), 1.60-2.05 (m, 2H), 3.47-3.53 (m, 1H), 3.65-3.72 (m, 2H), 4.56 (s, br, 1H); Anal. (C11H23NO3) C, H, N.

reactant | BOC-Leu-OH | 65 mmol, 15.09 g, 1 equiv | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | Brine | 100 mL | [Cl-].[Na+].O
product | BOC-L-Leucinol | 12.59 g, 89% | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)CO | C11H23NO3
